US06423716B1
N-(4-Phenoxyphenyl)-4-(4-pyrazolo[3,4-d]pyrimidinyl)-1-piperazinecarboxamide (Compound 69)
The target compound was produced in the same manner as in Example 2, except that 4-(6-purinyl)-1-piperazinecarboxylic acid tert-butyl ester was replaced with 4-(4-pyrazolo[3,4-d]pyrimidinyl )-1-piperazinecarboxylic acid tert-butyl ester produced in Reference Example 10, and that 4-nitrophenyl isocyanate was replaced with 4-phenoxyphenyl isocyanate.

reactant | 4-(4-pyrazolo[3,4-d]pyrimidinyl )-1-piperazinecarboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2C(=NC=N1)NN=C2 | C14H20N6O2
reactant | 4-nitrophenyl isocyanate | [N+](=O)([O-])C1=CC=C(C=C1)N=C=O | C7H4N2O3
reactant | 4-phenoxyphenyl isocyanate | O(C1=CC=CC=C1)C1=CC=C(C=C1)N=C=O | C13H9NO2
product | N-(4-Phenoxyphenyl)-4-(4-pyrazolo[3,4-d]pyrimidinyl)-1-piperazinecarboxamide | O(C1=CC=CC=C1)C1=CC=C(C=C1)NC(=O)N1CCN(CC1)C1=C2C(=NC=N1)NN=C2 | C22H21N7O2
